US07531532B2
3-{6-[2-Fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea
3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea (50 mg) was dissolved in ethanol (1 ml), and then D-10-camphorsulfonic acid (62.3 mg) was added thereto, followed by stirring for 5 min. Phenylacetyl isothiocyanate (toluene solution, 0.355 M, 0.565 ml) was added thereto, followed by stirring further for 1 hr. The reaction mixture was partitioned between ethyl acetate (30 ml) and a saturated aqueous solution of sodium hydrogencarbonate (20 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (20 ml), water (20 ml) and brine (20 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated to give a residue, to which diethyl ether (0.5 ml)-hexane (2.0 ml) was then added to suspend a solid. The solid was filtered off and dried under aeration to provide the titled compound (12.4 mg, 16.8%) as pale yellow powder.

reactant | 3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea | 50 mg | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C)C)=O)C=C1)F | C18H23FN6O2
reactant | D-10-camphorsulfonic acid | 62.3 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | Phenylacetyl isothiocyanate | 0.355 M, 0.565 ml | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | hexane | 2.0 ml | CCCCCC | C6H14
product | 3-{6-[2-Fluoro-4-(3-phenylacetylthioureido)phenoxy]pyrimidin-4-yl}-1-methyl-1-(1-methylpiperidin-4-yl)urea | 12.4 mg, 16.8% | FC1=C(OC2=CC(=NC=N2)NC(N(C2CCN(CC2)C)C)=O)C=CC(=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C27H30FN7O3S
